.title gp
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=3.3
Vdd vdd 0 3.3
Vd dd 0 1.65
Vg g 0 1.65 AC 1
X1 dd g vdd vdd PMOS3V3 W=10u L=0.35u
.control
ac lin 1 1e6 1e6
let gpm = abs(imag(Vg#branch))/(2*PI*1e6)/10*1e15
echo "RES gp=$&gpm"
.endc
.end
